US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-(5-chloro-2-methanesulfinylmethoxy-benzylidene)-1,3-dihydro-indol-2-one
In a manner similar to the method described in Example 9b, 5-chloro-2-methanesulfinylmethoxy-benzaldehyde (0.4 g, 1.72 mmol) was reacted with 6-chlorooxindole (0.31 g, 1.86 mmol) and pyrrolidine (0.13 g, 1.86 mmol) in methanol (10 mL) to give the title compound as a yellow solid (0.6 g).

reactant | 5-chloro-2-methanesulfinylmethoxy-benzaldehyde | 1.72 mmol, 0.4 g | ClC=1C=CC(=C(C=O)C1)OCS(=O)C | C9H9ClO3S
reactant | 6-chlorooxindole | 1.86 mmol, 0.31 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 1.86 mmol, 0.13 g | N1CCCC1 | C4H9N
solvent | methanol | 10 mL | CO | CH4O
product | Z-6-chloro-3-(5-chloro-2-methanesulfinylmethoxy-benzylidene)-1,3-dihydro-indol-2-one | 0.6 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCS(=O)C | C17H13Cl2NO3S
